US09315543B2
N-[(9H-Fluoren-9-ylmethoxy)carbonyl]glycyl-S-trityl-L-cysteinamide
1.00 g (3.36 mmol) of N-[(9H-Fluoren-9-ylmethoxy)carbonyl]glycine was dissolved in 30 ml dichloromethane. 1.41 g (3.36 mmol) S-Trityl-L-cysteinylglycinamide, 0.59 ml (3.36 mmol) N,N-diisopropylethylamine and 1.28 g (3.36 mmol) HATU were added. The reaction mixture was heated for 30 min in a sealed tube at 60° C. in a microwave synthesizer. From the reaction mixture the solvent was removed under reduced pressure. The raw product was dissolved in dichloromethane and chromatographed over approx. 300 ml silica gel. Solvents used were dichloromethane, dichloromethane/methanol 20/1, dichloromethane/methanol 10/1. The product-containing fractions were combined and concentrated to dryness under reduced pressure. This gave 1.63 g (2.06 mmol, 81% of theory) of the desired product.

reactant | N-[(9H-Fluoren-9-ylmethoxy)carbonyl]glycine | 3.36 mmol, 1.00 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)O | C17H15NO4
reactant | S-Trityl-L-cysteinylglycinamide | 3.36 mmol, 1.41 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SC[C@H](N)C(=O)NCC(=O)N | C24H25N3O2S
reactant | N,N-diisopropylethylamine | 3.36 mmol, 0.59 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 3.36 mmol, 1.28 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-[(9H-Fluoren-9-ylmethoxy)carbonyl]glycyl-S-trityl-L-cysteinamide | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N | C39H35N3O4S
